US05459142
To a suspension of 5.45 g of 6-ethoxycarbonyl-5-hydroxy-3-isobutyl-1,2-dihydropyrazin-2-one 4-oxide in chloroform was added dropwise gradually about equivalent quantity of diethyl ether solution of diazomethane at -15° C. 30 Minutes after the addition, 0.5 ml of acetic acid was added to the reaction mixture, and this mixture was allowed to stand for 30 minutes. Then the whole mixture was washed with water, and the solvent was removed by distillation, to the thus obtained residue was added 30 ml of chloroform and dissolved by heating, then 200 ml of diisopropyl ether was added gradually thereto so as to form crystals. The precipitated crystals were collected by filtration, and said operation were repeated twice to obtain 3.10 g of 6-ethoxycarbonyl-3-isobutyl-5-methoxy-l,2-dihydropyrazin-2-one 4-oxide.

reactant | 6-ethoxycarbonyl-5-hydroxy-3-isobutyl-1,2-dihydropyrazin-2-one 4-oxide | 5.45 g | C(C)OC(=O)C1=C([N+](=C(C(N1)=O)CC(C)C)[O-])O | C11H16N2O5
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-ethoxycarbonyl-3-isobutyl-5-methoxy-l,2-dihydropyrazin-2-one 4-oxide | 3.10 g | C(C)OC(=O)C1=C([N+](=C(C(N1)=O)CC(C)C)[O-])OC | C12H18N2O5
